US07101886B2
4-[2-(4-1,2-Benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-phenylamine (135 mg, 0.4 mmol) was dissolved in 5 ml THF and triethylamine was added (112 μL, 0.8 mmol). Trimethyl acetyl chloride (49.3 μL, 0.4 mmol) was added under stirring and the reaction stirred at room temperature overnight. The reaction mixture was concentrated under nitrogen and dissolved in 5 ml methylene chloride and then washed with water. The organic layer was concentrated and evaluated by LCMS. The mixture was purified by MPLC using a Biotage 40s prepacked silica gel cartridge eluting with 3% methanol in methylene chloride. N-{4-[2-(4-1,2-Benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-phenyl}-2,2-dimethyl-propionamide (156 mg) was isolated in 98.2% purity @ 254 nm; LCMS (APCI): 423 [M+H]+

reactant | 4-[2-(4-1,2-Benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-phenylamine | 0.4 mmol, 135 mg | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC=C(C=C2)N | C19H22N4S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | Trimethyl acetyl chloride | 0.4 mmol, 49.3 μL | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-{4-[2-(4-1,2-Benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-phenyl}-2,2-dimethyl-propionamide | 156 mg | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC=C(C=C2)NC(C(C)(C)C)=O | C24H30N4OS
